US07863332B2
35 g (4 mol %) of diphenylphosphinoferrocene-palladium dichloride are added to a solution of 200 g (1.075 mol, 1 eq) of (3-bromophenyl)methylamine and 286.7 g (1.129 mol, 1.05 eq) of pinacol diborane in 2 L of dimethylformamide in the presence of 316.4 g (3.225 mol, 3 eq) of potassium acetate. The reaction medium is heated at 100° C. for 3 hours and then stirred at room temperature for 15 hours. The reaction medium is filtered through Celite and 2 L of ethyl acetate are then added to the filtrate. The organic medium is washed with water and then separated out by settling. The solvents are evaporated off and the black oil obtained is chromatographed on silica gel eluted with heptane/ethyl acetate (90/10). 183 g of methyl-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]amine in the form of an orange-yellow oil are obtained. Yield=73%

reactant | (3-bromophenyl)methylamine | 1.075 mol, 200 g, 1 eq | BrC=1C=C(C=CC1)CN | C7H8BrN
reactant | pinacol diborane | 1.129 mol, 286.7 g, 1.05 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.225 mol, 316.4 g, 3 eq | C(C)(=O)[O-].[K+]
reactant | dimethylformamide | 2 L | CN(C=O)C | C3H7NO
catalyst | diphenylphosphinoferrocene palladium dichloride | 35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2].[Pd](Cl)Cl
product | methyl-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)phenyl]amine | 183 g, Yield=73% | CNC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
